data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_230276_0,[C:1]([C:5]([C:2]([H:14])([H:15])[H:17])=[C:4]([N:3]([O:7][H:8])[H:9])[N:6]([H:10])[H:11])([H:12])([H:13])[H:16]>>[C:1]([C:5]([C:2]([H:14])([H:15])[H:17])(/[C:4](=[N:3]/[O:7][H:8])[N:6]([H:10])[H:11])[H:9])([H:12])([H:13])[H:16],44.23937749998672
MR_532824_1,[C:1]1([C:6]([C:4]([H:18])([H:19])[H:20])=[C:5]([N:7]([H:10])[H:11])[N:8]([H:12])[H:13])([H:9])[C:2]([H:14])([H:15])[C:3]1([H:16])[H:17]>>[C:1]1([H:9])=[C:6]([C:4]([H:18])([H:19])[H:20])[C:5]([N:7]([H:10])[H:11])([N:8]([H:12])[H:13])[C:3]([H:16])([H:17])[C:2]1([H:14])[H:15],68.05864999998718
MR_62149_0,[C@:1]1([C:3]([H:12])([H:13])[H:14])([H:8])[C@:2]([N:5]([H:10])[H:11])([H:9])[C:4](=[O:7])[O:6]1>>[C@:1]1([C:3]([H:12])([H:13])[H:14])([H:8])[C@:4]2([C@:2]([N:5]([H:10])[H:11])([H:9])[O:7]2)[O:6]1,60.17348499999187
MR_588348_0,[C:1](\[C:2]([C:4]([N:6]([H:12])[H:13])=[C:7]([H:17])[H:18])([O:8][H:11])[H:9])([C:3]([H:14])([H:15])[H:16])=[N:5]/[H:10]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([N:5]([H:10])[H:11])[C:2]([C:4]([N:6]([H:12])[H:13])=[C:7]([H:17])[H:18])([H:9])[O:8]1,37.07583749998861
MR_63167_1,[C:1]([C:3]([O:6][H:9])=[O:7])([O:4][C:2]([H:11])([H:12])[H:13])([O:5][H:8])[H:10]>>[C:1]([C:3]([O:4][C:2]([H:11])([H:12])[H:13])([O:6][H:9])[O:7][H:8])(=[O:5])[H:10],46.34965999997348
MR_187249_0,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:3]([O:5][H:7])=[N:6]/[N:4]([H:8])[H:9])([H:10])[H:11]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:3](\[O:5][H:7])[N:6]([N:4]([H:8])[H:9])[H:11])[H:10],65.48715499998778
MR_637817_1,[C:1]([C:4](/[C:2](=[C:3](\[N:5]([H:11])[H:12])[O:8][H:10])[O:7][H:9])=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([C:4]1=[C:2]([O:7][H:9])[C@@:3]([N:5]([H:11])[H:12])([O:8][H:10])[C:6]1([H:16])[H:17])([H:13])([H:14])[H:15],39.96108249998059
MR_272735_1,[C:1](/[C:5](=[N:7]\[N:3]([C:4]([N:2]([O:6][H:9])[H:10])=[O:8])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]([N:2]([O:6][H:9])[H:10])([N:7]1[N:3]([H:11])[C:4]1=[O:8])[H:12])([H:13])([H:14])[H:15],59.29624000003088
MR_484905_1,[C:1]([C:2]([N:4][C:6][N:5][H:8])([H:11])[H:12])([O:3][H:7])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[N:4]1[C:6]([O:3][H:7])[N:5][H:8],72.5333524999968
MR_706903_0,[C:1](/[N:9]=[C:4](\[C:5](=[C:6]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])[O:8][H:11])[O:7][H:10])([H:12])([H:13])[H:14]>>[C:1]([N:9]1[C:4]([O:7][H:10])=[C:5]([O:8][H:11])[C:6]1([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])([H:12])([H:13])[H:14],62.92946499998919
MR_663314_1,[C:1](/[C:5]([C:4]([C:6]([C:2]([H:17])([H:18])[H:22])[C:3]([H:19])([H:20])[H:21])[N:7]([H:11])[H:12])=[C:8](\[O:9][H:10])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:5]1=[C:4]([N:7]([H:11])[H:12])[C:6]([C:2]([H:17])([H:18])[H:22])([C:3]([H:19])([H:20])[H:21])[C@:8]1([O:9][H:10])[H:13])([H:14])([H:15])[H:16],31.486694999974816
MR_300846_0,[C:1]([N:3]([N:5]([H:9])[H:10])[H:8])(/[C:4]([N:6]([H:11])[H:12])=[C:7](/[C:2]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14]>>[C:1](=[C:4]([N:6]([H:11])[H:12])[C:7]([C:2]([H:16])([H:17])[H:18])([N:3]([N:5]([H:9])[H:10])[H:8])[H:15])([H:13])[H:14],62.015197500014665
MR_42800_0,[C:1]([C:3]([C:4]([C:2]([H:13])([H:14])[H:15])[C:5](=[O:7])[H:9])[O:6][H:8])([H:10])([H:11])[H:12]>>[C:1]([C@:3]1([O:6][H:8])[C:4]([C:2]([H:13])([H:14])[H:15])=[C:5]([H:9])[O:7]1)([H:10])([H:11])[H:12],48.40033000000375
MR_684583_1,[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[C:6](/[C:3](=[C:5](\[O:8][H:10])[H:11])[O:7][H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([C:2]([H:16])([H:17])[H:18])[C:5]([O:8][H:10])([H:11])[C:3]([O:7][H:9])=[C:6]1[H:12])([H:13])([H:14])[H:15],49.28949750000598
MR_444394_1,[N:1]1([H:10])[C:3]2([C:4](=[O:8])[H:11])[C:5]([H:12])=[C:2]([O:6][H:9])[N:7]12>>[n:1]1([H:10])[c:3]([C:4](=[O:8])[H:11])[c:5]([H:12])[c:2]([O:6][H:9])[n:7]1,21.30676249995915
MR_605910_1,[C:1](/[N:9]=[C:5]([C:2]([H:17])([H:18])[H:19])\[C:3](=[C:4](/[N:6]([H:12])[H:13])[O:8][H:11])[O:7][H:10])([H:14])([H:15])[H:16]>>[C:1]([N:9]1[C@:4]([N:6]([H:12])[H:13])([O:8][H:11])[C:3]([O:7][H:10])=[C:5]1[C:2]([H:17])([H:18])[H:19])([H:14])([H:15])[H:16],39.85628999999548
MR_112496_2,[C:1](/[N:4]=[C:5](/[C:3]([H:14])([H:15])[H:16])[N:6]([C:2]([H:11])([H:12])[H:13])[H:7])([H:8])([H:9])[H:10]>>[C:1]([N:4](/[C:5]([C:3]([H:14])([H:15])[H:16])=[N:6]/[C:2]([H:11])([H:12])[H:13])[H:7])([H:8])([H:9])[H:10],41.81283499997804
MR_667763_1,[C:1]([C:2]([C:4](=[C:6]([H:16])[H:17])[H:13])=[C:5]([H:14])[H:15])([N:3]([H:11])[H:12])([O:7][H:10])[O:8][H:9]>>[C:1]([C:2]([C:4]([C:6]([H:9])([H:16])[H:17])([O:7][H:10])[H:13])=[C:5]([H:14])[H:15])([N:3]([H:11])[H:12])=[O:8],54.7092150000195
MR_413966_0,[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[N:7]=[C:6]([C:4]([H:15])([H:16])[H:17])[N:5]1[C:3]([H:12])([H:13])[H:14]>>[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[N:7]1/[C:6]([C:4]([H:15])([H:16])[H:17])=[N:5]/[C:3]([H:12])([H:13])[H:14],72.75486000000825
